US04870063
(3-Isobutyl-4-thiomorpholinylmethylene)-bisphosphonic acid
A mixture of N-formyl-3-isobutyl-thiomorpholine (18.7 g) and phosphorous acid (16.4 g) was heated at 100° C. for 2 hours. Phosphorus trichloride (30 ml) was added dropwise with stirring, and after reflux for 3 hours water (180 ml) was added slowly. The mixture was refluxed for 1 hour and filtered. Evaporation of the filtrate gave a residue which was triturated with ethanol to yield a crystalline compound which was isolated by filtration. M.p.: 237°-238° C. (dec.).

reactant | N-formyl-3-isobutyl-thiomorpholine | 18.7 g | C(=O)N1C(CSCC1)CC(C)C | C9H17NOS
reactant | phosphorous acid | 16.4 g | P(O)(O)O | H3O3P
reactant | Phosphorus trichloride | 30 ml | P(Cl)(Cl)Cl | Cl3P
solvent | water | 180 ml | O | H2O
product | (3-Isobutyl-4-thiomorpholinylmethylene)-bisphosphonic acid | C(C(C)C)C1N(CCSC1)C(P(O)(O)=O)P(O)(O)=O | C9H21NO6P2S
